US09085555B2
B. 3-Chloro-2-fluoro-5-morpholin-4-yl-benzylamine
To a solution of 3-Chloro-2-fluoro-5-morpholin-4-yl-benzonitrile (215 mg, 0.85 mmol) in THF (2 mL) was added dropwise a solution of BH3-THF. The reaction mixture was heated under reflux for several hours, cooled to ambient temperature and quenched carefully by addition of methanol. The solvent was removed in vacuo and the crude product was purified by RP-preparative HPLC (Waters Sunfire, C18-ODB, 5 μm, 30×100 mm, 5-100% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 40 mL/min) to give the title compound. MS (LC/MS): 244.9 [M]+; tR (HPLC conditions c): 3.02 min.

reactant | 3-Chloro-2-fluoro-5-morpholin-4-yl-benzonitrile | 0.85 mmol, 215 mg | ClC=1C(=C(C#N)C=C(C1)N1CCOCC1)F | C11H10ClFN2O
reactant | BH3-THF | B.C1CCOC1
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-Chloro-2-fluoro-5-morpholin-4-yl-benzylamine | ClC=1C(=C(CN)C=C(C1)N1CCOCC1)F | C11H14ClFN2O
